US05563162
To the solution of 8-[2,6-dichloro-3-[N-ethoxycarbonylmethyl-N-(phthalimidoacetyl)amino]benzyloxy]-2-methylquinoline (527 mg) in dichloromethane (5.3 ml) was added 30% solution of methylamine in methanol (2 ml) at ambient temperature. After stirring for 24 hours, the reaction mixture was evaporated in vacuo. The residue was purified by flash column chromatography (silica gel 50 ml) eluting with dichloromethane/methanol (20/1, V/V) and by crystallizing from isopropyl ether to give 8-[2,6- dichloro-3-(2,5-dioxopiperazin-1-yl)benzyloxy]-2-methylquinoline (187 mg) as colorless crystals.

reactant | 8-[2,6-dichloro-3-[N-ethoxycarbonylmethyl-N-(phthalimidoacetyl)amino]benzyloxy]-2-methylquinoline | 527 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)CC(=O)OCC)Cl | C31H25Cl2N3O6
reactant | methylamine | CN | CH5N
solvent | dichloromethane | 5.3 ml | ClCCl | CH2Cl2
solvent | methanol | 2 ml | CO | CH4O
product | 8-[2,6- dichloro-3-(2,5-dioxopiperazin-1-yl)benzyloxy]-2-methylquinoline | 187 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N1C(CNC(C1)=O)=O)Cl | C21H17Cl2N3O3
